US07713994B2
(4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.17 g, 0.61 mmol) and N-methyl-N-(1-methyl-pyrrolidin-3-yl)-benzene-1,4-diamine (0.12 g, 0.61 mmol) were stirred in N,N-dimethylformamide (3 mL) and triethylamine (0.16 mL) at 60-70° C. The reaction mixture is quenched by the addition of water. The solid material is then collected, washed with diethyl ether, water, and methanol, and then dried under vacuum to give (4Z)-6-bromo-4-[({4-[methyl(1-methylpyrrolidin-3-yl)amino]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione (0.12 g, 44%) as a rust colored powder.

reactant | (4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.61 mmol, 0.17 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | N-methyl-N-(1-methyl-pyrrolidin-3-yl)-benzene-1,4-diamine | 0.61 mmol, 0.12 g | CN(C1=CC=C(C=C1)N)C1CN(CC1)C | C12H19N3
reactant | triethylamine | 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-bromo-4-[({4-[methyl(1-methylpyrrolidin-3-yl)amino]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione | 0.12 g, 44% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N(C1CN(CC1)C)C | C22H23BrN4O2
